US09334279B2
To a 2 dram vial equipped with a stir bar was added 2,4-dichloro-6-methylpyridine (29 mg, 0.18 mmol), 5-(tributylstannyl)thiazole (66 mg, 0.18 mmol), CuI (8 mg, 0.04 mmol), CsF (81 mg, 0.53 mmol), and Pd(PPh3)4 (10 mg, 8.9 μmol). The vial was capped with a septum screw-cap and then placed under N2 atmosphere. To the vial was added degassed DMF (1 mL). The vial was placed in a 80° C. heating block with stirring for 1 hour. The mixture was allowed to cool to room temperature and was then directly purified via C18 chromatography (water:MeOH w/0.1% TFA) to afford 5-(4-chloro-6-methylpyridin-2-yl)thiazole as a white solid. MS: MS m/z 211.1 (M++1). This material was directly carried forward into step 2.

reactant | 2,4-dichloro-6-methylpyridine | 0.18 mmol, 29 mg | ClC1=NC(=CC(=C1)Cl)C | C6H5Cl2N
reactant | 5-(tributylstannyl)thiazole | 0.18 mmol, 66 mg | C(CCC)[Sn](C1=CN=CS1)(CCCC)CCCC
reactant | CsF | 0.53 mmol, 81 mg | [F-].[Cs+]
catalyst | CuI | 0.04 mmol, 8 mg | [Cu]I
catalyst | Pd(PPh3)4 | 8.9 μmol, 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(4-chloro-6-methylpyridin-2-yl)thiazole | ClC1=CC(=NC(=C1)C)C1=CN=CS1 | C9H7ClN2S
